US08735048B2
6.83 g of aluminum chloride was added to 20.0 g of benzene, and the mixture was stirred under cooling at 3° C. Subsequently, 40.4 g of cyclohexyl chloride was slowly added dropwise and after the dropwise addition, the reaction solution was stirred at room temperature for 5 hours and then poured in ice water. The organic layer was extracted with ethyl acetate, and the obtained organic layer was distilled off under reduced pressure at 40° C., further distilled off under reduced pressure at 170° C., then cooled to room temperature and recrystallized by charging 50 ml of acetone thereinto. The precipitated crystals were collected by filtration to obtain 14 g of tricyclohexylbenzene.

reactant | aluminum chloride | 6.83 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | cyclohexyl chloride | 40.4 g | C1(CCCCC1)Cl | C6H11Cl
solvent | benzene | 20.0 g | C1=CC=CC=C1 | C6H6
product | tricyclohexylbenzene | 14 g | C1(CCCCC1)C=1C(=C(C=CC1)C1CCCCC1)C1CCCCC1 | C24H36
